US08461328B2
To a −78° C. solution of 1.0 M lithium hexamethyldisilazide in THF (0.90 mL) in 4.0 mL THF was added 3-ethoxy-2-cyclohexen-1-one (0.100 mL, 0.687 mmol). After stirring at −78° C. for 40 minutes, 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (1.0 mL, 8.3 mmol) was added. After 5 minutes, N-(2,4-Dimethoxy-benzyl)-2-iodo-acetamide (0.342 g, 1.02 mmol) was added as a solution in 2.0 mL THF. The reaction was kept at −78° C. for one hour, and then quenched with water and partitioned between ethyl acetate and water. The organic layer was dried over magnesium sulfate, filtered, and evaporated in vacuo. Purification by column chromatography on silica gel (gradient: 0 to 100% ethyl acetate in dichloromethane) yielded 133.5 mg (56%) of N-(2,4-dimethoxy-benzyl)-2-(4-ethoxy-2-oxo-cyclohex-3-enyl)-acetamide. LCMS (Method E, ESI): RT=1.57 min, m+H=336.2; 1H NMR (400 MHz, CDCl3) δ: 7.17 (d, J=8.1 Hz, 1H), 6.47-6.39 (m, 2H), 6.35 (s, 1H), 5.32 (s, 1H), 4.38-4.30 (m, 2H), 3.90 (dd, J=13.5, 6.5 Hz, 2H), 3.82 (s, 3H), 3.79 (s, 3H), 2.77 (dd, J=14.3, 5.6 Hz, 1H), 2.68 (dt, J=10.6, 5.5 Hz, 1H), 2.59-2.48 (m, 1H), 2.37 (ddd, J=12.0, 6.3, 2.9 Hz, 1H), 2.17 (ddd, J=13.1, 11.2, 4.6 Hz, 2H), 1.72 (ddd, J=25.0, 12.6, 4.9 Hz, 1H), 1.36 (t, J=7.0 Hz, 3H).

reactant | lithium hexamethyldisilazide | 1.0 M | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 3-ethoxy-2-cyclohexen-1-one | 0.687 mmol, 0.100 mL | C(C)OC1=CC(CCC1)=O | C8H12O2
reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 8.3 mmol, 1.0 mL | CN1C(N(CCC1)C)=O | C6H12N2O
reactant | N-(2,4-Dimethoxy-benzyl)-2-iodo-acetamide | 1.02 mmol, 0.342 g | COC1=C(CNC(CI)=O)C=CC(=C1)OC | C11H14INO3
solvent | THF | 0.90 mL | C1CCOC1 | C4H8O
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | N-(2,4-dimethoxy-benzyl)-2-(4-ethoxy-2-oxo-cyclohex-3-enyl)-acetamide | 133.5 mg, 56% | COC1=C(CNC(CC2C(C=C(CC2)OCC)=O)=O)C=CC(=C1)OC | C19H25NO5
